US05324711
Preparation of 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetic acid
A solution of 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetaldehyde dimethyl acetal (95 g, 0.272 mole) and concentrated sulfuric acid (20 ml) in acetic acid and water is heated at 72° C. for 20 hours, cooled to room temperature and concentrated in vacuo. The concentrated solution is diluted with acetone and water and treated with KMnO4 (140 g) in portions over a three hour period at 18°-30° C. with stirring.

reactant | 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetaldehyde dimethyl acetal | 0.272 mole, 95 g | COC(C(N1N=NC2=C1C=C(C=C2)OCC2=CC=CC=C2)C)OC | C18H21N3O3
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-(benzyloxy)-α-methyl-1H-benzotriazole-1-acetic acid | C(C1=CC=CC=C1)OC=1C=CC2=C(N(N=N2)C(C(=O)O)C)C1 | C16H15N3O3
